US09278983B2
To a mixture of 3-chloro-N2-methyl-5-trifluoromethylbenzene-1,2-diamine (1.12 g) and THF (5 ml), 2-ethylsulfanylbenzoic acid hydrochloride (1.00 g) was added under ice-cooling, heated to room temperature, and stirred for 1 hour. Sodium hydrogen carbonate (0.46 g) was added thereto, and then the reaction mixture was allowed to stand overnight. The reaction mixture was heated to 66° C., and stirred under reflux for 1.5 hours. After the mixture was cooled to room temperature, 2-ethylsulfanylbenzoic acid hydrochloride (0.5 g) was added at room temperature. After the reaction mixture was allowed to stand at room temperature overnight, sodium hydrogen carbonate (1.00 g) was added, and stirred. The reaction mixture was ice-cooled, and then water was added under ice-cooling, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.48 g of 7-chloro-2-(2-ethylsulfanylphenyl)-1-methyl-5-trifluoromethyl-1H-benzimidazole (hereinafter referred to as Present Compound 71).

reactant | 3-chloro-N2-methyl-5-trifluoromethylbenzene-1,2-diamine | 1.12 g | ClC1=C(C(=CC(=C1)C(F)(F)F)N)NC | C8H8ClF3N2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | 2-ethylsulfanylbenzoic acid hydrochloride | 1.00 g | Cl.C(C)SC1=C(C(=O)O)C=CC=C1
reactant | Sodium hydrogen carbonate | 0.46 g | C(O)([O-])=O.[Na+]
reactant | 2-ethylsulfanylbenzoic acid hydrochloride | 0.5 g | Cl.C(C)SC1=C(C(=O)O)C=CC=C1
reactant | sodium hydrogen carbonate | 1.00 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 7-chloro-2-(2-ethylsulfanylphenyl)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 0.48 g | ClC1=CC(=CC2=C1N(C(=N2)C2=C(C=CC=C2)SCC)C)C(F)(F)F | C17H14ClF3N2S
